US04579865
7-Indolyl N-(4-methoxyphenyl)carbamate
To a solution of 7-hydroxyindole (0.7 g.) in ethyl ether (25 ml) and triethylamine (1 ml) is added 0.8 g. 4-methoxyphenyl isocyanate (Aldrich 23860-0). The reaction is stirred for 3 days at room temperature. The solvent is removed in vacuo and the remaining oil is purified by HPLC on silica gel.

reactant | 7-hydroxyindole | 0.7 g | OC=1C=CC=C2C=CNC12 | C8H7NO
reactant | 4-methoxyphenyl isocyanate | COC1=CC=C(C=C1)N=C=O | C8H7NO2
solvent | ethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 7-Indolyl N-(4-methoxyphenyl)carbamate | COC1=CC=C(C=C1)NC(OC=1C=CC=C2C=CNC12)=O | C16H14N2O3
